US08067448B2
2-chloro-4-((1R,2R)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
To a 100 mL round bottom flask was added 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methyl benzonitrile (586 mg, 0.9 mmol, 1.0 equiv.) and 60 mL of anhydrous THF. The solution was cooled to −78° C. and TBAF (1 mL, 0.99 mmol, 1.1 equiv., 1M in THF) was added dropwise via a syringe. The solution was stirred for 3 h while the temperature was kept below −30° C. The reaction was quenched with 25 mL of saturated ammonium chloride and diluted with 25 mL of EtOAc. The layers were separated and the organic layer was washed with distilled water (1×25 mL) and brine (1×25 mL). The organic layer was dried over Na2SO4 and was concentrated in vacuo to yield an off-white solid. The product was purified via automated flash chromatography (0→50% EtOAc/hexanes→100% EtOAc, 24 g of silica gel; TLC Rf=0.43, 100% EtOAc, vanillin stain) to provide the desired product as a white solid (239 mg, 63% yield). Other data: 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.92 (d, J=2.15 Hz, 1H), 7.80 (dd, J=2.15, 8.6 Hz, 1H), 7.49 (d, J=8.6 Hz, 1H), 7.17 (d, J=8.6 Hz, 1H), 6.89 (d, J=8.79 Hz, 1H), 5.87 (d, J=8.79 Hz, 1H), 5.02 (dd, J=5.66, 8.79 Hz, 1H), 4.51 (m, 1H), 2.36 (s, 3H), 1.41 (d, J=6.45 Hz, 3H); LRMS (ESI+) exact mass calcd for C19H16Cl2N4O3 [M]+ 419.26. found 419.2.

reactant | 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methyl benzonitrile | 0.9 mmol, 586 mg, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)O)Cl)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H30Cl2N4O3Si
reactant | TBAF | 0.99 mmol, 1M, 1 mL, 1.1 equiv. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-((1R,2R)-1-(5-(3-chloro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 239 mg, 63% yield | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)O)Cl | C19H16Cl2N4O3
